US06340694B1
2-(4-(Methylthio)phenyl)-3-(4-trifluoromethylphenyl)-4H-1-benzopyran-4-one
Following the procedure of Example 1, Step 5, but substituting 3-bromo-2-(4-(methylthio)phenyl)-4H-1-benzopyran-4-one(0.1 g, 0.32 mmol) for 3-iodo-2-(4-(methylsulfonyl)phenyl)-4H-1-benzopyran-4-one and 4-trifluoromethylbenzeneboronic acid(0.066 g, 0.35 mmol) for 4-fluorobenzeneboronic acid, the title compound was obtained as a solid(0.05 g, 40%).

reactant | 3-iodo-2-(4-(methylsulfonyl)phenyl)-4H-1-benzopyran-4-one | IC1=C(OC2=C(C1=O)C=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C | C16H11IO4S
reactant | 4-trifluoromethylbenzeneboronic acid | 0.35 mmol, 0.066 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4-fluorobenzeneboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 2-(4-(Methylthio)phenyl)-3-(4-trifluoromethylphenyl)-4H-1-benzopyran-4-one | CSC1=CC=C(C=C1)C=1OC2=C(C(C1C1=CC=C(C=C1)C(F)(F)F)=O)C=CC=C2 | C23H15F3O2S
